US08242130B2
To a 50 mL round-bottomed flask fitted with condenser and magnetic stirrer was added 2-(2-amino-4-methoxyphenyl)-4H-chromen-4-one (770 mg, 2.88 mmol), hydroiodic acid (10 mL) and acetic acid (4 mL). The reaction mixture was heated to 110° C. for 8 h. The reaction mixture was cooled to rt and diluted with water. The precipitate was filtered off, washed with water and dried to give the crude compound, which was purified by column chromatography using 2% MeOH in CH2Cl2, to give 2-(2-amino-4-hydroxy-phenyl)-chromen-4-one (357 mg, 49%). MS (ES) m/z: 254.05 (M+1), 149.00, 134.01, and 121.00.

reactant | 2-(2-amino-4-methoxyphenyl)-4H-chromen-4-one | 2.88 mmol, 770 mg | NC1=C(C=CC(=C1)OC)C=1OC2=CC=CC=C2C(C1)=O | C16H13NO3
reactant | hydroiodic acid | 10 mL | I | HI
reactant | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(2-amino-4-hydroxy-phenyl)-chromen-4-one | 357 mg, 49% | NC1=C(C=CC(=C1)O)C=1OC2=CC=CC=C2C(C1)=O | C15H11NO3
